US07385059B2
A mixture of 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid ethyl ester (10.2 g) in 2 M aqueous NaOH/MeOH (1:1, 250 ml) was stirred at ambient temperature for 14 h. Volatile materials were removed in vacuo, water (300 ml) added and the mixture taken to pH 5 using 1M aqueous HCl. The resultant precipitate was collected by filtration and dried through azeotrope with toluene to afford 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid as a pink solid (5.70 g). (LC/MS: Rt 2.33, [M+H]+267.96).

reactant | 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid ethyl ester | 10.2 g | C(C)OC(=O)C1=NNC=C1NC(C1=C(C=CC=C1F)F)=O | C13H11F2N3O3
solvent | NaOH MeOH | 2 M, 250 ml | [OH-].[Na+].CO
product | 4-(2,6-difluoro-benzoylamino)-1H-pyrazole-3-carboxylic acid | 5.70 g | FC1=C(C(=O)NC=2C(=NNC2)C(=O)O)C(=CC=C1)F | C11H7F2N3O3
